US08975411B2
Synthesis of tert-butyl imino{[(2E)-3-mesityl-2-propenoyl]amino}methylcarbamate
(2E)-3-Mesitylacrylic acid (8.0 g; 42 mmol), diisopropylethylamine (27.2 g; 210 mmol), tert-butyl amino(imino)methylcarbamate (8.03 g; 50 mmol), and 1-hydroxybenzotriazole monohydrate (7.73 g; 50 mmol) were dissolved in N,N-dimethylformamide (170 mL), 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate (19.2 g; 50 mmol) was added thereto, and the mixture was stirred for 20 hours at room temperature. To the reaction solution, ethyl acetate (500 mL) was added, and the mixture was washed with 10% aqueous citric acid solution, brine, saturated aqueous sodium bicarbonate solution, and then brine. The organic layer was dried over anhydrous magnesium sulfate and then distilled under reduced pressure, to give 13.9 g of the title compound (yield 100%) as an oil.

reactant | (2E)-3-Mesitylacrylic acid | 42 mmol, 8.0 g | C1(=C(C(=CC(=C1)C)C)/C=C/C(=O)O)C | C12H14O2
reactant | diisopropylethylamine | 210 mmol, 27.2 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl amino(imino)methylcarbamate | 50 mmol, 8.03 g | NN(C(OC(C)(C)C)=O)C=N | C6H13N3O2
reactant | 1-hydroxybenzotriazole monohydrate | 50 mmol, 7.73 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2-(1H)-benzotriazol-1-yl-1,1,3,3-tetramethyluronium hexafluorophosphate | 50 mmol, 19.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 170 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl imino{[(2E)-3-mesityl-2-propenoyl]amino}methylcarbamate | 13.9 g, yield 100% | N=C(NC(\C=C\C1=C(C=C(C=C1C)C)C)=O)NC(OC(C)(C)C)=O | C18H25N3O3
